US05068246
Preparation of 1-methyl-1-(2,3,5,5-tetramethylhexyl)-3-methyl-4-(-p-tert-butylphenyl)-pyrrolidinium bromide (compound No. 189)
30 g of tetrahydrofuran are added to 40 g of 1-(2,3,5,5-tetramethylhexyl)-3-methyl-4-(p-tert-butyl-phenyl)-pyrrolidine. For the formation of the quaternary salt, 40 g of a solution of methyl bromide in acetonitrile (20% strength) are added. When the mixture stands overnight, the quaternary salt crystallizes out. Filtration with suction gives 20.5 g of product of melting point 250° C. At 270° C., pronounced discoloration occurs.

reactant | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
reactant | 1-(2,3,5,5-tetramethylhexyl)-3-methyl-4-(p-tert-butyl-phenyl)-pyrrolidine | 40 g | CC(CN1CC(C(C1)C1=CC=C(C=C1)C(C)(C)C)C)C(CC(C)(C)C)C | C25H43N
reactant | methyl bromide | CBr | CH3Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-methyl-1-(2,3,5,5-tetramethylhexyl)-3-methyl-4-(-p-tert-butylphenyl)-pyrrolidinium bromide | 20.5 g | [Br-].C[N+]1(CC(C(C1)C1=CC=C(C=C1)C(C)(C)C)C)CC(C(CC(C)(C)C)C)C | InChI=1S/C26H46N.BrH/c1-19(15-25(4,5)6)20(2)16-27(10)17-21(3)24(18-27)22-11-13-23(14-12-22)26(7,8)9;/h11-14,19-21,24H,15-18H2,1-10H3;1H/q+1;/p-1
